US04613609
4-Methylbenzenesulfonic acid, 4-[4-(acetylamino)phenyl]butyl ester
To a 0° C. solution of 4.5 g (0.022 mole) 4-(acetylamino)benzenebutanol in 25 ml pyridine, add 8.3 g (0.044 mole) tosyl chloride and chill in the refrigerator overnight. Follow the progress of the reaction by thin-layer chromatography on silica gel (acetonitrile: ammonium hydroxide, 90:10). At the completion of the reaction, pour the reaction mixture onto 500 ml ice water and stir for 15 minutes. Extract the aqueous mixture with 3×300 ml ether. Wash the combined organic layers with 1N hydrochloric acid, then with water, dry over potassium carbonate, filter and remove the solvent in vacuo to obtain the title compound.

reactant | 4-(acetylamino)benzenebutanol | 0.022 mole, 4.5 g | C(C)(=O)NC1=CC=C(C=C1)CCCCO | C12H17NO2
reactant | tosyl chloride | 0.044 mole, 8.3 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
product | 4-Methylbenzenesulfonic acid, 4-[4-(acetylamino)phenyl]butyl ester | CC1=CC=C(C=C1)S(=O)(=O)OCCCCC1=CC=C(C=C1)NC(C)=O | C19H23NO4S
